US05120738
Preparation of 4-(Oleoylamino)phenyl 3-[N-(2,4-diacetoxy-3,3-dimethyl-1-oxobutyl)amino]propionate
4-Oleoylaminophenol (372 mg) and 259 mg of 3-[N-(2,4-diacetoxy-3,3-dimethyl-1-oxobutyl)amino]propionic acid were reacted in the same manner as in Example 1 to obtain 255 mg of the title compound (yield: 39%).

reactant | 4-Oleoylaminophenol | 372 mg | C(CCCCCCC\C=C/CCCCCCCC)(=O)NC1=CC=C(C=C1)O | C24H39NO2
reactant | 3-[N-(2,4-diacetoxy-3,3-dimethyl-1-oxobutyl)amino]propionic acid | 259 mg | C(C)(=O)OC(C(=O)NCCC(=O)O)C(COC(C)=O)(C)C | C13H21NO7
product | 4-(Oleoylamino)phenyl 3-[N-(2,4-diacetoxy-3,3-dimethyl-1-oxobutyl)amino]propionate | 255 mg, yield: 39% | C(C)(=O)OC(C(=O)NCCC(=O)OC1=CC=C(C=C1)NC(CCCCCCC\C=C/CCCCCCCC)=O)C(COC(C)=O)(C)C | C37H58N2O8
